.options savecurrents

* PHILIPS BJT'S
.MODEL BC557A PNP(IS=2.059E-14 ISE=2.971f ISC=1.339E-14 XTI=3 BF=227.3 BR=7.69 IKF=0.08719 IKR=0.07646 XTB=1.5 VAF=37.2 VAR=11.42 VJE=0.5912 VJC=0.1 RE=0.688 RC=0.6437 RB=1 RBM=1 IRB=1E-06 CJE=1.4E-11 CJC=1.113E-11 XCJC=0.6288 FC=0.7947 NF=1.003 NR=1.007 NE=1.316 NC=1.15 MJE=0.3572 MJC=0.3414 TF=7.046E-10 TR=1m2 ITF=0.1947 VTF=5.367 XTF=4.217 EG=1.11)
.MODEL BC547A NPN(IS=1.533E-14 ISE=7.932E-16 ISC=8.305E-14 XTI=3 BF=178.7 BR=8.628 IKF=0.1216 IKR=0.1121 XTB=1.5 VAF=69.7 VAR=44.7 VJE=0.4209 VJC=0.2 RE=0.6395 RC=0.6508 RB=1 RBM=1 IRB=1E-06 CJE=1.61E-11 CJC=4.388p XCJC=0.6193 FC=0.7762 NF=1.002 NR=1.004 NE=1.436 NC=1.207 MJE=0.3071 MJC=0.2793 TF=4.995E-10 TR=1m2 ITF=0.7021 VTF=3.523 XTF=139 EG=1.11)

**********************************************
* FILE TO MEASURE THE FINAL OUTPUT IMPEDANCE *
**********************************************

*Vin=0, Rin=0

Vcc vcc 0 12.0

*Vin=0 SHORT CIRCUIT
*Rin=0 SHORT CIRCUIT
Rin 0 in2 0

* input coupling capacitor
Ci in2 base 1m

* bias circuit
R1 vcc base 80k
R2 base 0 23k

* gain stage
Q1 coll base emit BC547A
Rc vcc coll 1000
Re emit 0 100

* bypass capacitor
Cb emit 0 2740u

* output stage
Q2 0 base2 emit2 BC557A
Vfc coll base2 0.0
Rout emit2 vcc 1

* output coupling capacitor
Co emit2 out 3m

* load (Vfc2 to measure current and do ohm's law to get output impedance)
Vfc2 out 0 0 ac 1.0 sin(0 1.0 1k)

.op
*.measure ac gain_max MAX vdb(coll) from=1 to=100MEG
*.measure ac out_max MAX vdb(out) from=1 to=100MEG

.end

.control


* time analysis
tran 1e-5 1e-2
*plot v(coll)
*plot v(in2)
*hardcopy vo1.ps v(coll)
*hardcopy vo10.ps v(in2)


* frequency analysis
ac dec 10 10 100MEG
*plot v(coll)
*plot vp(coll)
*plot v(out)
*hardcopy vo1f.ps db(v(coll))
*hardcopy vo3f.ps v(out)

*Impedância de Output da Out (pôr Rin e Vin a zero, Rl subst por Vfc2)

plot abs(v(out)[40]/Vfc2#branch[40]/(-1000)
print v(out)[40]/Vfc2#branch[40]/(-1000)


*plot vdb(out)
*plot vp(out)
*hardcopy vo2f.ps vp(coll)

.endc
